US07423051B2
To a solution of 4-fluoro-3-methylanisole (0.75 mL, 802 mg, 5.55 mmol, Aldrich 97%) in anhydrous tetrahydrofuran (5 mL) at −78° C., was added slowly a solution of n-butyllithium in hexanes (2.5 M, 2.22 mL, 5.55 mmol, Aldrich). The reaction was stirred at −78° C. for 10 mins before it was allowed to warm to −25-0° C. and stirred for 1.5 hour. The resulting aryllithium reagent was cooled back to −78° C. and reacted with 2-Amino-6-chloro-N-methoxy-N-methyl-nicotinamide as described in Example 7 to give (2-Amino-6-chloro-pyridin-3-yl)-(5-fluoro-2-methoxy-4-methyl-phenyl)-methanone as an off-white solid. HRMS, observed: 295.0645, Calcd for (M+H)+: 295.0644.

reactant | 4-fluoro-3-methylanisole | 5.55 mmol, 0.75 mL, 802 mg | FC1=C(C=C(C=C1)OC)C | C8H9FO
reactant | n-butyllithium | C(CCC)[Li]
reactant | 2-Amino-6-chloro-N-methoxy-N-methyl-nicotinamide | NC1=C(C(=O)N(C)OC)C=CC(=N1)Cl | C8H10ClN3O2
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | (2-Amino-6-chloro-pyridin-3-yl)-(5-fluoro-2-methoxy-4-methyl-phenyl)-methanone | NC1=NC(=CC=C1C(=O)C1=C(C=C(C(=C1)F)C)OC)Cl | C14H12ClFN2O2
